US05932601
A mixture of ethyl 2-hydroxy-4-(4-hydroxy-3-methoxyphenyl)butanoate (0.73 g), potassium cyanate (KCNO) (0.7 g) and butanol (25 ml) was stirred for 18 hours under reflux. The reaction mixture was concentrated under reduced pressure. The residue was poured into water and acidified with 2N HCl, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent. The resulting oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-chloroform (1:4, v/v), was obtained 5-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2,4-oxazolidinedione (0.2 g, 28%),

reactant | ethyl 2-hydroxy-4-(4-hydroxy-3-methoxyphenyl)butanoate | 0.73 g | OC(C(=O)OCC)CCC1=CC(=C(C=C1)O)OC | C13H18O5
reactant | potassium cyanate | 0.7 g | [O-]C#N.[K+]
solvent | butanol | 25 ml | C(CCC)O | C4H10O
product | 5-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2,4-oxazolidinedione | 0.2 g, 28% | OC1=C(C=C(C=C1)CCC1C(NC(O1)=O)=O)OC | C12H13NO5
